US05744471
7-Chloro-4-hydroxy-2-(3,4-dimethoxyphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione.
7-Chloro-3-methoxycarbonyl-4-oxo-1,4-dihydroquinoline-2-carbonyl chloride (7.00 g, 23.3 mM) was dissolved in tetrahydrofuran (210 mL) and added dropwise over 20 minutes to a cold (0° C.) solution of 3,4-dimethoxyphenylhydrazine (9.80 g, 58.3 mM) in tetrahydrofuran (420 mL)with stirring. The resulting brown suspension was stirred at 0° C. for 30 minutes and at room temperature for 2 hours. Ice/water slurry (450 mL) was added to the reaction mixture followed by 1N HCl (1.2 L) and the brown suspension was stirred for 1 hour. The solids were separated by filtration and washed with water and then ether to provide7-chloro-3-methoxycarbonyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid N-2-(2,4-dimethoxyphenyl)hydrazide (15 g, wet). The combined filtrateand washes were partially concentrated to remove the THF whereupon a precipitate formed. This precipitate was collected and washed with water and then ether to give the crude title compound (2.00 g). Recrystallization of this crude from refluxing methanol (500 mL) gave the title compound (0.98 g, 10%) as a tan powder, mp=334°-336° C.; HS(CI): 400 (M+H).

reactant | 7-Chloro-3-methoxycarbonyl-4-oxo-1,4-dihydroquinoline-2-carbonyl chloride | 23.3 mM, 7.00 g | ClC1=CC=C2C(C(=C(NC2=C1)C(=O)Cl)C(=O)OC)=O | C12H7Cl2NO4
reactant | 3,4-dimethoxyphenylhydrazine | 58.3 mM, 9.80 g | COC=1C=C(C=CC1OC)NN | C8H12N2O2
reactant | HCl | 1N, 1.2 L | Cl | ClH
solvent | tetrahydrofuran | 210 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 420 mL | O1CCCC1 | C4H8O
product | 7-Chloro-4-hydroxy-2-(3,4-dimethoxyphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | 0.98 g, 10% | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=CC(=C(C=C3)OC)OC)O)=O | C19H14ClN3O5
